US08859592B2
To a solution of 7-bromo-4-(5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl)-2-methyl-benzo[d]oxazole (3.5 g) in dimethylformamide (40 ml) was added successively triethylamine (2.5 ml), methanol (60 ml) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (“PdC12(dppf)”) (259 mg). The reaction mixture was stirred in a pressure reactor in an atmosphere of carbon monoxide (4 bar) at 80° C. for 16 hours. The reaction mixture was cooled to ambient temperature, filtered over a plug of Celite® and concentrated. The residue was purified by column chromatography on silica gel (eluent: 15-55% v/v ethyl acetate in heptane) to give 4-(5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl)-2-methyl-benzo[d]oxazole-7-carboxylic acid methyl ester (2.75 g). 1H-NMR (400 MHz, CDCl3): 7.95-7.42 (m, 5H), 4.56 (d, 1H), 4.12 (d, 1H), 4.02 (s, 3H), 2.77 (s, 3H) ppm.

reactant | 7-bromo-4-(5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl)-2-methyl-benzo[d]oxazole | 3.5 g | BrC1=CC=C(C=2N=C(OC21)C)C2=NOC(C2)(C(F)(F)F)C2=CC(=CC(=C2)Cl)Cl | C18H10BrCl2F3N2O2
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 60 ml | CO | CH4O
reactant | carbon monoxide | [C]=O | CO
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 259 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl)-2-methyl-benzo[d]oxazole-7-carboxylic acid methyl ester | 2.75 g | COC(=O)C1=CC=C(C=2N=C(OC21)C)C2=NOC(C2)(C(F)(F)F)C2=CC(=CC(=C2)Cl)Cl | C20H13Cl2F3N2O4
